* C:\Users\pig\Documents\ee308\ee308\lab1 - Copy\output amplifier.asc
R1 N002 N010 2k
Q1 N010 in N018 0 2N3904
R5 N018 N023 3k
Q2 N001 N007 N018 0 2N3904
R6 N007 0 1k
R7 out N007 10k
Q6 N005 N006 N009 0 2N3904
Q9 N021 N016 N017 0 2N3906
R9 N009 out 5
R10 out N017 5
R12 N023 out 50
R13 N014 N018 160
C2 N018 N014 330p
V1 N002 0 12
V2 0 N023 12
V3 in 0 AC 1
R16 N021 N023 300
R14 N002 N005 300
C1 out N007 2p
C3 N002 N004 10n
R8 N002 N003 300
D1 N003 N004 1N4148
R17 N022 N023 300
C4 N019 N023 10n
Q3 N016 N019 N020 0 2N3904
R18 N004 N019 20k
Q4 N006 N004 N001 0 2N3906
R19 N020 N023 100
R20 N002 N001 50
D2 N006 N012 1N4148
D3 N012 N016 1N4148
D4 N019 N022 1N4148
R2 N002 N007 15k
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
* want output centered at 6V\nbiasing to 2mA from BK3001\nR=(12-6)/1mA=6k
* choose diff gain G=10\nre=25mV/Ic\n10=6k/(2(Re+re)) =>Re=275
* choose common mode gain of 0.5\n0.5=6k/(2Rtail+Re+re) => Rtail=5.85k
* from app notes
.ac oct 100 1k 1Gig
* (+)
* (-)
* .tran 20u
.op
* pot
.backanno
.end
